US07151105B2
Step 1: 2-(4-Bromo-2-ethyl-phenyl)-oxazole
4-Bromo-2-ethyl-benzoic acid (6.8 g, 30 mmol), diisopropylethylamine (7.8 mL, 44.7 mmol), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU, 14 g, 37 mmol), and aminoacetaldehyde dimethyl ether (4 mL, 37 mmol) in 2:1 dichlormethane/dimethylformamide (120 mL) 5 h at room temperature. The solution was washed with several portions of water, then 1N HCl(aq) and saturated sodium chloride, dried (Na2SO4), filtered, and concentrated in vacuo to a crude light yellow oil. The residue was redissolved in Eaton's reagent (P2O5 in methanesulfonic acid, 100 mL), and the solution was heated at 135° C. under argon for 6 h. The solution was cooled to room temperature and carefully poured onto ice. The mixture was extracted with dichloromethane, and the organic layer was backwashed with saturated sodium chloride, dried (Na2SO4), filtered, and concentrated in vacuo to a crude oil. The residue was redissolved in ethyl acetate and washed with saturated sodium bicarbonate, then saturated sodium chloride, dried (Na2SO4), filtered, and concentrated in vacuo to pure brown liquid (3.16 g, 44%), 1H NMR (300 MHz, CDCl3): δ ppm 1.24 (t, J=7.54 Hz, 3 H) 3.09 (q, J=7.54 Hz, 2 H) 7.27 (s, 1 H) 7.42 (dd, J=8.38, 1.98 Hz, 1 H) 7.48 (d, J=2.07 Hz, 1 H) 7.74 (s, 1 H) 7.81 (d, J=8.48 Hz, 1 H).

reactant | 4-Bromo-2-ethyl-benzoic acid | 30 mmol, 6.8 g | BrC1=CC(=C(C(=O)O)C=C1)CC | C9H9BrO2
reactant | diisopropylethylamine | 44.7 mmol, 7.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 37 mmol, 14 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dichlormethane dimethylformamide | 120 mL | ClCCl.CN(C=O)C
product | 2-(4-Bromo-2-ethyl-phenyl)-oxazole | BrC1=CC(=C(C=C1)C=1OC=CN1)CC | C11H10BrNO
